US03975390
A mixture of 26 g of 3-nitro-4-chloro-benzophenone, 20 ml. of ethanol and 35 ml. of diisobutylamine is heated to 80° to 85 °C under stirring, and the reaction mixture is kept at this temperature for 6 hours. When the reaction is over the ethanol is distilled off under reduced pressure, and 260 ml. of petroleum ether (b.p.: 40° to 100 °C) are added to the solid residue. The separated diisobutylamine hydrochloride is removed by filtration. The filtrate is evaporated, and the residue is recrystallized from ethanol. 32.7 g. of 3-nitro-4-(N,N-diisobutylamino)-benzophenone are obtained; m.p.: 80°-81 °C.

reactant | 3-nitro-4-chloro-benzophenone | 26 g | [N+](=O)([O-])C=1C=C(C(=O)C2=CC=CC=C2)C=CC1Cl | C13H8ClNO3
reactant | diisobutylamine | C(C(C)C)NCC(C)C | C8H19N
solvent | ethanol | C(C)O | C2H6O
product | 3-nitro-4-(N,N-diisobutylamino)-benzophenone | [N+](=O)([O-])C=1C=C(C(=O)C2=CC=CC=C2)C=CC1N(CC(C)C)CC(C)C | C21H26N2O3
